preamp
.include ada4891.mod

x_u1 vp vn vdd vee vstep ada4891
r1 vin 0 {rin}
c1 vin vn {cin}
rf vn vstep {rfed}
cf vn vstep {cfed}
rpz vstep vout {rfed}
cpz vstep vout {cfed}
rout vout 0 10Meg
c2 vdd 0 10u
c3 vdd 0 0.1u
c4 vee 0 10u
c5 vee 0 0.1u
vpos vdd 0 dc +2.5V
vneg vee 0 dc -2.5V
vin+ vp 0 0V

.control
set appendwrite
noise v(vout) is lin 25000 1 2.5G
setplot noise2
ac lin 1 0.1 0.1
ac lin 25000 100k 2.5G
.endc

.end
